US07662831B2
Following the procedure of Example 1 Step 2, 4,5,7,8,9,10,11,12-octahydrocycloocta[b]pyrrolo[3,2,1-hi]indole (3.2 g, 14 mmol), potassium nitrate (1.5 g, 14 mmol) and concentrated sulfuric acid (50 mL) provided 2-nitro-4,5,7,8,9,10,11,12-octahydrocycloocta[b]pyrrolo[3,2,1-hi]indole (3.0 g). MS (ES) m/z 271.2; HRMS: calcd for C16H18N2O2+H+, 271.14410; found (ESI, [M+H]+), 271.1437.

reactant | 4,5,7,8,9,10,11,12-octahydrocycloocta[b]pyrrolo[3,2,1-hi]indole | 14 mmol, 3.2 g | C1=C2C3=C(N4C2=C(C=C1)CC4)CCCCCC3 | C16H19N
reactant | potassium nitrate | 14 mmol, 1.5 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
product | 2-nitro-4,5,7,8,9,10,11,12-octahydrocycloocta[b]pyrrolo[3,2,1-hi]indole | 3.0 g | [N+](=O)([O-])C=1C=C2C3=C(N4C2=C(C1)CC4)CCCCCC3 | C16H18N2O2
